US09102682B2
tert-butyl N-[2-[2-chloro-6-(diethoxymethyl)pyrrolo[2,3-d]pyrimidin-7-yl]-3-methyl-butyl]carbamate was synthesized by subjecting tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate to Sonogoshira conditions as described for tert-butyl N-[2-[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4-yl]amino]ethyl]carbamate followed by subsequent treatment with TBAF as described in the synthesis of tert-butyl N-[2-[2-chloro-6-(diethoxymethyl)pyrrolo[2,3-d]pyrimidin-7-yl]ethyl]carbamate. 1H NMR (600 MHz, DMSO-d6) δ ppm 1.11 (d, J=6.44 Hz, 3H) 1.18 (t, J=7.03 Hz, 6H) 1.21-1.26 (m, 12H) 2.88 (br. s., 1H) 3.43-3.78 (m, 6H) 3.97-4.08 (m, 1H) 5.61 (s, 1H) 6.65 (s, 1H) 6.71-6.78 (m, 1H) 8.87 (s, 1H). LCMS (ESI) 441 (M+H).

reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)C(C)C | C14H22BrClN4O2
reactant | tert-butyl N-[2-[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4-yl]amino]ethyl]carbamate | ClC1=NC=C(C(=N1)NCCNC(OC(C)(C)C)=O)C#CC(OCC)OCC | C18H27ClN4O4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | tert-butyl N-[2-[2-chloro-6-(diethoxymethyl)pyrrolo[2,3-d]pyrimidin-7-yl]ethyl]carbamate | ClC=1N=CC2=C(N1)N(C(=C2)C(OCC)OCC)CCNC(OC(C)(C)C)=O | C18H27ClN4O4
product | tert-butyl N-[2-[2-chloro-6-(diethoxymethyl)pyrrolo[2,3-d]pyrimidin-7-yl]-3-methyl-butyl]carbamate | ClC=1N=CC2=C(N1)N(C(=C2)C(OCC)OCC)C(CNC(OC(C)(C)C)=O)C(C)C | C21H33ClN4O4
